US08865736B2
4-Bromomethyl-5-methyl-2-phenyl-2H-[1,2,3]triazole
To a solution of (5-Methyl-2-phenyl-2H-[1,2,3]triazol-4-yl)-methanol (0.25 g, 1.30 mmol) in 10 ml of toluene was added PBr3 (0.53 g, 1.90 mmol) and the reaction mixture was heated at 120° C. for 20 min under nitrogen atmosphere. After the completion of the reaction mixture (TLC monitoring), water (25 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated to get the desired product (0.30 g, 90%) as a yellow solid.

reactant | (5-Methyl-2-phenyl-2H-[1,2,3]triazol-4-yl)-methanol | 1.30 mmol, 0.25 g | CC=1C(=NN(N1)C1=CC=CC=C1)CO | C10H11N3O
reactant | PBr3 | 1.90 mmol, 0.53 g | P(Br)(Br)Br | Br3P
reactant | water | 25 mL | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Bromomethyl-5-methyl-2-phenyl-2H-[1,2,3]triazole | 0.30 g, 90% | BrCC1=NN(N=C1C)C1=CC=CC=C1 | C10H10BrN3
